US04028344
Preparation of 1,1'-Azobis [1-(cyclohexylaminocarbonylamino)cyclohexane]
To a stirred solution of 4.22 grams (.0426 moles) of cyclohexylamine in 20 ml pentane in a 125 ml erlenmeyer flask, cooled to 5° C. in an ice bath, was slowly added a solution of 5.78 grams (.0213 moles) of 1,1'-azobis (1-isocyanatocyclohexane) in 20 ml of pentane. During the addition, a solid product formed. After the addition was complete, the reaction was stirred an additional 30 minutes at 0°-5° C. The reaction mixture was filtered and the filter cake washed with pentane and dried. The dry white solid weighed 5.4 grams (54% crude yield) and melted at 105°-109° C. with decomposition. The infrared spectrum of the product contained a strong carbonyl band at 1655 cm-1 and NH bands at 3200 cm-1 to 3440 cm-1.

reactant | cyclohexylamine | .0426 moles, 4.22 grams | C1(CCCCC1)N | C6H13N
reactant | 1,1'-azobis (1-isocyanatocyclohexane) | .0213 moles, 5.78 grams | N(=NC1(CCCCC1)N=C=O)C1(CCCCC1)N=C=O | C14H20N4O2
solvent | pentane | 20 ml | CCCCC | C5H12
solvent | pentane | 20 ml | CCCCC | C5H12
product | 1,1'-Azobis [1-(cyclohexylaminocarbonylamino)cyclohexane] | N(=NC1(CCCCC1)NC(=O)NC1CCCCC1)C1(CCCCC1)NC(=O)NC1CCCCC1 | C26H46N6O2
